reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]1(/[C:6]([C:3]([H:11])([H:12])[H:13])=[N:7]/[H:16])[C:4]([H:14])([H:15])[O:5]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10],82.9973661683183
[C:1](=[N:2]/[C:3]([N:4]([H:11])[H:12])=[C:5](\[O:6][H:9])[N:7]([H:13])[H:14])([H:8])[H:10]>>[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10],11.826713834132406
[N:1]([C:2](=[O:3])[C:4]#[C:5][H:8])([H:6])[H:7]>>[N:1](=[C:2](/[O:3][H:7])[C:4]#[C:5][H:8])\[H:6],44.9438309292746
[N:1]([C:2]([C:3]#[C:4][H:10])=[C:5]=[N:6][H:9])([H:7])[H:8]>>[N:1]([C@@:2]([C:3]#[C:4][H:10])([C:5]#[N:6])[H:9])([H:7])[H:8],64.1677450232072
[C:1]([C@@:2]([N:3]([H:10])[H:11])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2]([N:3]([H:10])[H:11])=[C:4]=[N:5][H:9])([H:6])([H:7])[H:8],86.50474868763041
[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](/[N:3]=[C:4](/[C:5](=[N+:6]=[C-:7][H:15])[H:14])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],68.0659383826398
[C:1]([N:2]([H:10])[H:11])([O+:4]=[C-:3][N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10],34.63144415785461
[C:1]([C:2](=[O+:3][C:4]([N:5]([H:11])[H:13])=[C:6]=[N-:7])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],5.372013944188204
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7]>>[C:2]1([H:8])=[C:3]([H:9])[C:4]1([C:5]#[N:6])[H:11].[O:1]([H:7])[H:10],77.155761797448
[C:1]([C@@:2]([C:3](=[C:4]=[C:5]([H:13])[H:14])[H:12])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],85.77509465558013
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1](=[O:2])([H:8])[H:10].[C:3]1([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]([H:9])=[N:7]1,84.45573338029979
[C:1]([C:2]([C:3](=[C:4]([H:13])[H:14])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[O:5]([H:11])[H:15]>>[C:1]([C:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],59.23909904730853
[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([N+:4]#[C-:3])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],57.938080559855614
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[N:1]([C:2](=[O:3])[H:9])([C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:8],57.073970570228504
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6][O:7][H:17])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6](=[O:7])[H:17])([H:8])([H:9])[H:10],28.617835283167807
[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C:4](/[N:5]=[C:6](\[O:7][H:12])[H:16])([H:13])[H:14])([H:8])([H:9])[H:10].[H:11][H:15],70.2698445176524
[C:1]([C:2]([C:3]([C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([H:10])([H:11])[H:16])([H:7])([H:8])[H:9].[C:3]1([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([O:6][H:18])[H:17],115.154511013977
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5](=[O:6])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:11])[H:12])[O:4][H:13])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:10])[H:14],72.95362219498959
[C:2]1([H:8])=[C:3]([H:9])[C:4]1([C:5]#[N:6])[H:11].[O:1]([H:7])[H:10]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7],45.554850052518795
[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8]>>[N:1](/[C:2]([O:3][H:9])=[C:4](\[C:5]#[N:6])[H:10])([H:7])[H:8],54.5536978976689
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([N+:6]#[C-:5])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],36.48813433004689
[O:1]([C:2]([C:3](=[C:5]=[N:6][O:4][H:11])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[N:6])[H:10])([H:8])[H:9])[H:7],49.4431211152657
[C:1]([N+:2]([C-:3]([C:6]#[N:7])[H:12])([C:4]([O:5][H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],47.74403106354119
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N+:5]([H:12])([H:13])[C-:6]12,63.3588263592208
[C:1]([C:2](=[O:3])[C:4]#[C:5][H:9])([H:6])([H:7])[H:8]>>[C:1]([C:5](=[C:4]=[C:2]=[O:3])[H:9])([H:6])([H:7])[H:8],94.2915691610241
